US05002941
d. 2-(4-Hydroxyphenyl) 3 (4-pyridyl) 6,7-dihydro-[5H]pyrrolo[1,2 a]imidazole dihydrobromide
A stirred solution of 3g (10.3 mmoles) of 2-(4-methoxyphenyl)-3-(4-pyridyl)-6,7-dihydro [5H]pyrrolo [1,2-a]imidazole of Part c) above in 150 ml of dry methylene chloride was treated dropwise at -80° C. with a solution of 17.7 g (30.9 mmoles) of boron tribromide in methylene chloride and allowed to warm to room temperature overnight. The reaction mixture was chilled in an ice bath, 5 to 10 ml of water added, and the solvent removed in vacuo. The residue was recrystallized from hot water containing 0.5 ml. of 48% hydrobromic acid and dried in vacuo to afford the titled compound as bright yellow crystals, mp 257-258° C. Anal. Calcd. for C1H15N3O2HBr.1/3H20: C, 45.87; H, 4.00; N, 9.44. Found: C,45.66; H, 3.69; N,9.67.

reactant | 2-(4-methoxyphenyl)-3-(4-pyridyl)-6,7-dihydro [5H]pyrrolo [1,2-a]imidazole | COC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2 | C18H17N3O
reactant | boron tribromide | 30.9 mmoles, 17.7 g | B(Br)(Br)Br | BBr3
reactant | water | 5 to 10 ml | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Hydroxyphenyl) 3 (4-pyridyl) 6,7-dihydro-[5H]pyrrolo[1,2 a]imidazole dihydrobromide | Br.Br.OC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2 | InChI=1S/C17H15N3O.2BrH/c21-14-5-3-12(4-6-14)16-17(13-7-9-18-10-8-13)20-11-1-2-15(20)19-16;;/h3-10,21H,1-2,11H2;2*1H
